US06710056B2
2-Methoxy-5-phenylbenzoic acid:
0.84 g (3.33 mmol) of methyl 2-Methoxy-5-phenylbenzoate was stirred under heating at 80° C. in a solvent mixture of dioxane/water containing 4 M of hydrogen chloride for 7 hours. The solvent was evaporated to obtain the title compound.

reactant | methyl 2-Methoxy-5-phenylbenzoate | 3.33 mmol, 0.84 g | COC1=C(C(=O)OC)C=C(C=C1)C1=CC=CC=C1 | C15H14O3
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane water | 4 M | O1CCOCC1.O
product | 2-Methoxy-5-phenylbenzoic acid | COC1=C(C(=O)O)C=C(C=C1)C1=CC=CC=C1 | C14H12O3
